US07671063B2
K2CO3 (270 mg) is added to a solution of N,2-dimethyl-5-nitro-aniline (214.5 mg, 1.29 mmol) and benzyl bromide (0.2 mL, 1.7 mmol) in DMF (4 mL). The mixture is heated for 12 h to 70° C. under stirring. Volatiles are evaporated at reduced pressure. Chromatography of the residue (silica gel, hexane/EtOAc 4:1) yields N-Benzyl-N,2-dimethyl-5-nitro-aniline.

reactant | K2CO3 | 270 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N,2-dimethyl-5-nitro-aniline | 1.29 mmol, 214.5 mg | CNC1=C(C=CC(=C1)[N+](=O)[O-])C | C8H10N2O2
reactant | benzyl bromide | 1.7 mmol, 0.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-Benzyl-N,2-dimethyl-5-nitro-aniline | C(C1=CC=CC=C1)N(C1=C(C=CC(=C1)[N+](=O)[O-])C)C | C15H16N2O2
